US03952012
5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetic acid:
A solution of 0.5 g. (0.0017 mole) of ethyl 5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetate in 3 ml. ethanol is brought to reflux and 1.7 ml. of 1N sodium hydroxide solution is added dropwise. The mixture is refluxed for 3 minutes and the ethanol is then evaporated in vacuo. The residue is diluted with water and acidified with dilute hydrochloric acid. A white solid precipitates, 5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetic acid, which is collected by filtration and dried, m.p. 196°-198°C.

reactant | ethyl 5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetate | 0.0017 mole | C(#N)C1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)OCC)C=C1 | C17H16N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetic acid | C(#N)C1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)O)C=C1 | C15H12N2O3
